US06265349B1
Preparation of 3-(4-chloro-3-methylsulfonylaminophenyl)-4-chloro-1-methyl-6-trifluoromethyl-2(1H)-pyridone (Compound No. 11-3)
To 20 ml of dichloromethane, 0.4 g (1.19 mmol) of 3-(3-amino-4-chlorophenyl)-4-chloro-1-methyl-6-trifluoromethyl-2(1H)-pyridone and 0.3 g (2.62 mmol) of methylsulfonyl chloride were dissolved, and 0.3 g (2.96 mmol) of triethylamine was added thereto under cooling with ice, followed by stirring at room temperature for 1 hour. After completion of the reaction, the reaction solution was poured into water and extracted with dichloromethane. The organic layer was washed with water and a 10% citric acid aqueous solution and dried over anhydrous magnesium sulfate. The organic layer was distilled off under reduced pressure, and the obtained crude crystals were dissolved in a mixed solvent comprising 15 ml of ethanol and 5 ml of DMF, and 3 ml of an aqueous sodium hydroxide solution [0.05 g (1.25 mmol) of sodium hydroxide] was added, followed by stirring at room temperature for 1 hour. After completion of the reaction, the reaction solution was poured into water and weakly acidified with citric acid and then extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous magnesium sulfate. The organic layer was distilled off under reduced pressure, and the obtained residue was purified by silica gel column chromatography to obtain 0.47 g (yield: 95%) of the desired product. Melting point: 161-163° C. 1H-NMR (400 MHz, CDCl3) δ value: 3.02(3H,s), 3.75(3H,s), 6.60(1H,s), 6.92(1H,s), 7.06(1H,dd), 7.26(1H,s), 7.47(1H,d), 7.59(1H,d)ppm.

reactant | 3-(3-amino-4-chlorophenyl)-4-chloro-1-methyl-6-trifluoromethyl-2(1H)-pyridone | 1.19 mmol, 0.4 g | NC=1C=C(C=CC1Cl)C=1C(N(C(=CC1Cl)C(F)(F)F)C)=O | C13H9Cl2F3N2O
reactant | methylsulfonyl chloride | 2.62 mmol, 0.3 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 2.96 mmol, 0.3 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 1.25 mmol, 3 ml, 0.05 g | [OH-].[Na+]
reactant | sodium hydroxide | 1.25 mmol | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-(4-chloro-3-methylsulfonylaminophenyl)-4-chloro-1-methyl-6-trifluoromethyl-2(1H)-pyridone | 0.47 g, yield: 95% | ClC1=C(C=C(C=C1)C=1C(N(C(=CC1Cl)C(F)(F)F)C)=O)NS(=O)(=O)C | C14H11Cl2F3N2O3S
